US07781373B2
Preparation of Cyan Dye CD-2
Into a 250 ml erlenmeyer flask was placed 4 g (11.4 mmoles) of N-(3,5-dichloro-2-hydroxy-4-methylphenyl)-3,5-dimethoxybenzamide, 3.15 g (12.5 mmoles) N2,N2-diethyl-6-methyl-2,5-pyridinediamine dihydrochloride and 100 ml of methanol. A suspension resulted. To this suspension was added 7.84 g (77.5 mmoles) of triethylamine. The suspension became a solution. The reaction flask was cooled via an ice/water bath to about 5° C. While the reaction mixture was cooling, 5.7 g (25 mmoles) of ammonium persulfate was dissolved in 12 mL of water. This solution was added dropwise to the reaction vessel. The mixture got so thick during the addition that an additional 100 ml of methanol needed to be added. After complete addition of the ammonium persulfate, the mixture was stirred at 5° C. for 2½ hours. The solid was collected on a medium sintered glass funnel, rinsed with methanol then 2 times with 45° C. water and finally ligroin and then air dried by sucking air through the funnel overnight. 5.2 g of desired product was collected. The collected product was returned to a 125 ml erlenmeyer flask 75 ml of ethanol was added. The mixture was heated to reflux on a hot plate for 5 minutes and allowed to cool to 45° C. A solid was then collected on a medium sintered glass funnel and dried by sucking air through the funnel overnight. The yield was 4.8 g (85% purified yield) of desired dye, with an absorbance maximum of 630 nm, and an extinction coefficient of 24,565.

reactant | N-(3,5-dichloro-2-hydroxy-4-methylphenyl)-3,5-dimethoxybenzamide | 11.4 mmoles, 4 g | ClC=1C(=C(C=C(C1C)Cl)NC(C1=CC(=CC(=C1)OC)OC)=O)O | C16H15Cl2NO4
reactant | N2,N2-diethyl-6-methyl-2,5-pyridinediamine dihydrochloride | 12.5 mmoles, 3.15 g | Cl.Cl.C(C)N(C1=NC(=C(C=C1)N)C)CC
reactant | triethylamine | 77.5 mmoles, 7.84 g | C(C)N(CC)CC | C6H15N
reactant | ammonium persulfate | 25 mmoles, 5.7 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 12 mL | O | H2O
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | CD-2 | CCN(CC)C1=CC(=C(C=C1)N)C | C11H18N2
